US04291047
138 g (2 mol) of 1,2,4-triazole were added in portions to 276.4 g (2 mol) of ground potassium carbonate and 269.2 g (2 mol) of α-chloropinacolin in 500 ml of acetone at room temperature, during which the internal temperature rose to the boiling point. The mixture was stirred under reflux for 5 hours and then cooled to room temperature. The reaction mixture was filtered and the filtrate was concentrated by distilling off the solvent in vacuo. After adding benzine, the oily residue crystallized. 240.8 g (72% of theory) of 3,3-dimethyl-1-(1,2,4-triazol-1-yl)-butan-2-one of melting point 62°-64° C. were obtained.

reactant | 1,2,4-triazole | 2 mol, 138 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | α-chloropinacolin | 2 mol, 269.2 g | CC(C)(C)C(=O)CCl | C6H11ClO
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 3,3-dimethyl-1-(1,2,4-triazol-1-yl)-butan-2-one | 240.8 g, 72% | CC(C(CN1N=CN=C1)=O)(C)C | C8H13N3O
